Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo M s/p CABG x 3 on ___ with prolonged post ___ hospital 
course, discharged to rehab. At rehab c/o preogressive SOB, o2 
sats decreased to 84%. Sent to ___ er where CTA showed bilateral 
PE. Started on heparin IV.
 
Past Medical History:
CABG x 3
Dyslipidemia, Hypertension, Percutaneous coronary intervention, 
in ___ w/ stent to LAD at ___.
 
Social History:
___
Family History:
His father and brother both died of MIs at age ___. 
 
Physical Exam:
98.7 98 91/58 18
101 kg  71"
NAD
Lungs decreased bretah sounds at both bases
Heart RRR without murmur
Abdomen Benign
Extrem with palpable pulses t/o

 
Pertinent Results:
___ 05:40AM BLOOD WBC-9.5 RBC-4.60 Hgb-13.3* Hct-41.7 
MCV-91 MCH-29.0 MCHC-32.0 RDW-14.3 Plt ___
___ 05:40AM BLOOD ___ PTT-93.3* ___
___ 04:32AM BLOOD ___ PTT-80.7* ___
___ 07:03PM BLOOD ___ PTT-75.9* ___
___ 08:15AM BLOOD ___ PTT-70.7* ___
___ 09:30AM BLOOD ___ PTT-30.5 ___ 05:40AM BLOOD Glucose-105 UreaN-13 Creat-0.9 Na-137 
K-4.3 Cl-99 HCO3-21* AnGap-21*
___ INR 3.1

BILAT LOWER EXT VEINS  ___ 8:03 AM

BILAT LOWER EXT VEINS

Reason: pt. with PE r/o DVT 

UNDERLYING MEDICAL CONDITION:
___ year old man with dyspnea s/p cabg 
REASON FOR THIS EXAMINATION:
pt. with PE r/o DVT 
STUDY: Bilateral lower extremity venous ultrasound.

INDICATION: ___ male presenting with dyspnea. Status 
post CABG. Assess for DVT.

CTA CHEST W&W/O C&RECONS, NON-CORONARY  ___ 10:25 AM

CTA CHEST W&W/O C&RECONS, NON-

Reason: ? PE 

UNDERLYING MEDICAL CONDITION:
___ year old man with pmh of CABG, recently discharged for the 
same, presents from rehab w/ acute onset SOB and desats to ___ 
on RA (prior normal). Not clinically in CHF. 
REASON FOR THIS EXAMINATION:
? PE 
CONTRAINDICATIONS for IV CONTRAST: None.

INDICATION: ___ with recent CABG and acute-onset 
shortness of breath. Evaluate for PE.

COMPARISON: Chest radiograph, ___ and ___.

TECHNIQUE: Multidetector helical scanning of the chest was 
performed following administration of 70 cc of IV Optiray 
contrast. Coronal, sagittal and multiple oblique MIP reformats 
were displayed.

CTA OF THE CHEST: There are multiple segmental and subsegmental 
pulmonary emboli involving all lobes of the lung. Clot burden is 
extensive. There is mild enlargement of the right atrium, 
suggesting right heart strain. The aorta is of normal caliber 
with no evidence of dissection. Heart size is normal with 
minimal pericardial fluid. There is a fluid collection extending 
retrosternally along the anterior mediastinum, measuring 
approximately 5.7 TRV x 1.3 AP x 6.0 CC in dimension which may 
simply be postoperative fluid, though infection cannot be 
excluded. The sternal wires are intact and there is no evidence 
of sternal dehiscence. There is a clear fat plane between this 
fluid collection and the great vessels. Extensive coronary 
artery calcifications and multiple CABG grafts are noted. There 
is a moderate left-sided non- loculated pleural effusion with 
associated atelectasis, within normal limits given the patient's 
post-cardiac surgery status. There are peripheral ground- glass 
opacities within the anterior right upper lobe which are 
nonspecific but may represent infectious or inflammatory 
etiology. No pathologically enlarged mediastinal, axillary, or 
hilar lymph nodes.

This exam is not tailored for subdiaphragmatic assessment. The 
visualized portions of the liver, spleen, and adrenal glands are 
normal.

There are no suspicious lytic or sclerotic lesions. Prominent 
confluent anterior osteophytosis of the mid-thoracic spine is 
noted.

IMPRESSION:

1. Extensive bilateral pulmonary emboli with suggestion of right 
heart strain. Findings were posted to the ED dashboard at the 
time of the exam.

2. Retrosternal fluid collection, which may simply be 
postoperative fluid, though infection cannot be excluded. No 
evidence of sternal dehiscence.

3. Moderate-sized left pleural effusion with associated 
atelectasis.

COMPARISONS: None.

FINDINGS: Grayscale and Doppler assessment of the right and left 
common femoral, superficial femoral and popliteal veins was 
performed. Normal flow, augmentation and compressibility is 
demonstrated of the right and left common femoral, right and 
left superficial femoral and left popliteal veins. Echogenic 
material is seen to expand the right popliteal vein above the 
knee and is consistent in appearance with acute thrombus. 
Echogenic material is seen to extend in to the right posterior 
tibial and peroneal veins also consistent in appearance with 
thrombosis. Doppler assessment of the calf veins of the left leg 
demonstrates echogenic material within the left peroneal vein 
consistent with acute thrombus.

IMPRESSION: Findings consistent with deep vein thrombosis 
involving the right popliteal vein. Acute thrombis extends into 
the posterior tibial and peroneal veins as well as the left 
peroneal vein.

 
Brief Hospital Course:
He was admitted to cardiac surgery ___ and started on IV heparin 
and coumadin. He was diuresed for a moderate left effusion. 
Lower extremity dopplers showed a right DVT.  He was transferred 
to the ICU for increased work of breathing. He was seen by 
vascular surgery and there was no indication for an IVC filter. 
His breathing improved and he was transferred back to the floor. 
His INR was therapeutic and he was ready for discharge home on 
hospital day #5. Target INR is 2.0-3.0 for PE/DVT.
First blood draw ___ with results to be called to PCP ___ 
___ for coumadin dosing/INR followup. Pt. is to make all 
followup appts. as directed in discharge instructions.
 
Medications on Admission:
ASA 325', Niacin SR 500', Atenolol 50', Lisinopril 20', Lipitor 
10' 
 
Discharge Medications:
1. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Niacin 500 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO QAM (once a day (in the morning)).
Disp:*30 Capsule, Sustained Release(s)* Refills:*1*
3. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*1*
4. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*1*
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 1 weeks.
Disp:*14 Capsule(s)* Refills:*0*
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*0*
7. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
8. Atenolol 50 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).
Disp:*45 Tablet(s)* Refills:*1*
9. Alprazolam 0.25 mg Tablet Sig: One (1) Tablet PO twice a day 
as needed.
Disp:*20 Tablet(s)* Refills:*0*
10. Warfarin 1 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily) 
for 1 doses: 2 mg today only ___ daily dosing per Dr. 
___.
Disp:*50 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PE/DVT
s/p CABG ___.
CAD s/p stent-LAD, HTN, ^chol, obesity,gout,CHF,anemia,Pilonidal 
cyst removal, Tonsillectomy 

 
Discharge Condition:
Stable.

 
Discharge Instructions:
Coumadin for pulmonary embolus to be followed by PCP ___. 
___ with fever, redness or drainage from incision or weight 
gain more than 2 pounds in one day or five in one week.
Shower, no baths, no lotions, creams or powders to incisions.
No lifting more than 10 pounds for 10 weeks from surgery.
No driving until follow up with surgeon.

 
Followup Instructions:
___